* TestBench: analogcoder_pro_p10_lowpass_full_testbench
* Circuit: analogcoder_pro_p10_lowpass
* Category: full
*
.OPTIONS POST=2 PROBE
.OPTIONS FILETYPE=ASCII

* AnalogCoder-Pro p10: a passive low-pass filter
* Source: analogcoder\AnalogCoderPro-master\sample_design\p10\p10.py
* AnalogCoder-Pro type: LowPass
* Inputs: Vin
* Outputs: Vout
Vin Vin 0 DC 2.5 AC 1 PULSE(1.25 3.75 0 1n 1n 10u 20u)
R1 Vin Vout BROKENVALUE
C1 Vout 0 10n
.AC dec 10 1 1000000000.0
.TRAN 1n 50u 0


.control
set filetype=ascii
set wr_singlescale
run
setplot ac1
wrdata vectors.dat real(v(Vin)) imag(v(Vin)) real(v(Vout)) imag(v(Vout))
quit
.endc
.END
